US07776869B2
Step 1: 1-(4-iodo-3-methylphenyl)-3-(3-(trifluoromethyl)phenyl)urea
To a solution of 4-iodo-3-methylaniline (200 mg, 0.86 mmol) in benzene (5 mL) in a sealable tube was added 1-isocyanato-3-(trifluoromethyl)benzene (0.133 mL, 0.94 mL; “E” is an electrophilic group disussed in scheme 3, and here is an isocyanate). The tube was sealed and heated at 90° C. for 4 h. The mixture was allowed to cool to room temperature before filtering. The off white solid was washed with additional benzene (10 mL) and used without further purification.

reactant | 4-iodo-3-methylaniline | 0.86 mmol, 200 mg | IC1=C(C=C(N)C=C1)C | C7H8IN
reactant | 1-isocyanato-3-(trifluoromethyl)benzene | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
reactant | isocyanate | [N-]=C=O
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | 1-(4-iodo-3-methylphenyl)-3-(3-(trifluoromethyl)phenyl)urea | IC1=C(C=C(C=C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)C | C15H12F3IN2O
